US07488740B2
3. 2-Amino-4-chloronicotinaldehyde
Dissolve tert-butyl 4-chloro-3-formylpyridin-2-ylcarbamate (1.6 g, 6.2 mmol) in anhydrous CH2Cl2 (50 mL) under N2 atmosphere. Add dropwise trifluoroacetic acid (2.4 mL, 31.0 mmol) to the reaction mixture and stir at room temperature overnight. Add saturated aq. sodium carbonate (50 mL) to the reaction mixture, separate the organic layer, extract the aq. layer with CH2Cl2 (2×20 mL) and dry with MgSO4. Filter and concentrate under reduced pressure to afford the title product as a yellow solid.

reactant | tert-butyl 4-chloro-3-formylpyridin-2-ylcarbamate | 6.2 mmol, 1.6 g | ClC1=C(C(=NC=C1)NC(OC(C)(C)C)=O)C=O | C11H13ClN2O3
reactant | trifluoroacetic acid | 31.0 mmol, 2.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-4-chloronicotinaldehyde | NC1=C(C=O)C(=CC=N1)Cl | C6H5ClN2O
